* Z:\home\jkmunson\workspace\sp24\EENG_331_LAB3\TASK3_3v.asc
M1 N003 N002 0 0 NMOS
Vgs N002 0 25.333333
V1 N001 0 10
R1 N001 N003 500
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\jkmunson\My Documents\LTspiceXVII\lib\cmp\standard.mos
.model nmos NMOS(kp=100u, vt0=0.5, L=10u, W=20u)
.op
.backanno
.end
